US05519034
A mixture of 5-chloro-8-methoxy-2-methyl-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline (5.5 g) prepared as described in Example MI5), 48% aqueous hydrobromic acid (50 ml) and glacial acetic acid (50 ml) was heated under reflux in a nitrogen atmosphere for 24 hours. The solvents were removed by evaporation The residue was decolourised with charcoal in methanol. The mixture was filtered and the solvent removed from the filtrate. The residue was dried by azeotropic distillation with propan-2-ol, and decolourised with charcoal in methanol. The mixture was filtered and the solvent removed from the filtrate. The residue was dried by azeotropic distillation with propan-2-ol and treated with ether to give 5-chloro-8-hydroxy-2-methyl-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide, m.p. 197°-200° C. (dec).

reactant | 5-chloro-8-methoxy-2-methyl-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline | 5.5 g | ClC1=C2CCN(C(C2=C(C=C1)OC)C1(CCC1)C1=CC=CC=C1)C | C21H24ClNO
reactant | hydrobromic acid | 50 ml | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-8-hydroxy-2-methyl-1-(1-phenylcyclobutyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.ClC1=C2CCN(C(C2=C(C=C1)O)C1(CCC1)C1=CC=CC=C1)C | InChI=1S/C20H22ClNO.BrH/c1-22-13-10-15-16(21)8-9-17(23)18(15)19(22)20(11-5-12-20)14-6-3-2-4-7-14;/h2-4,6-9,19,23H,5,10-13H2,1H3;1H
